* File: /home/IC/lab6/CLKGEN/clkgen.pex.spi.pex
* Created: Sun Feb 23 20:24:08 2025
* Program "Calibre xRC"
* Version "v2019.3_15.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_CLKGEN_A 5 9 18
c0 22 0 0.117058f
c1 15 0 0.107903f
c2 13 0 0.14511f
c3 9 0 0.140066f
c4 5 0 0.39153f
r5 21 22 8
r6 18 22 0.1287
r7 13 21 0.0744681
r8 12 15 6.2234
r9 12 13 13.2552
r10 7 15 4.73303
r11 7 9 38.5
r12 3 15 4.73303
r13 3 5 147
.ends

.subckt PM_CLKGEN_NET27 5 9 38 39 43
c0 46 0 0.242911f
c1 42 0 0.436315f
c2 35 0 0.121033f
c3 27 0 0.134601f
c4 17 0 0.0722034f
c5 14 0 0.108437f
c6 12 0 0.155064f
c7 7 0 0.21964f
c8 5 0 0.169607f
r9 46 48 0.192
r10 45 48 16.3327
r11 45 46 5.44423
r12 43 45 1.1475
r13 41 42 8.16635
r14 39 41 2.295
r15 38 41 2.295
r16 35 36 8
r17 33 48 0.2168
r18 32 35 0.00233333
r19 32 33 0.0126889
r20 30 42 0.3292
r21 29 32 0.107333
r22 29 30 0.0126889
r23 27 36 0.09425
r24 24 27 0.0363174
r25 17 24 0.06357
r26 16 17 8
r27 12 16 0.0774468
r28 11 14 6.2234
r29 11 12 13.2552
r30 7 14 4.73303
r31 7 9 82.25
r32 3 14 4.73303
r33 3 5 62
.ends

.subckt PM_CLKGEN_NET25 3 10 27 31
c0 36 0 0.108456f
c1 34 0 0.145923f
c2 29 0 0.219407f
c3 27 0 0.169738f
c4 16 0 0.228294f
c5 13 0 0.736401f
c6 5 0 0.00784247f
r7 38 39 8
r8 34 38 0.0774468
r9 33 36 6.2234
r10 33 34 13.2552
r11 29 36 4.73303
r12 29 31 82.25
r13 25 36 4.73303
r14 25 27 62
r15 16 39 0.124851
r16 15 16 8
r17 13 15 0.292
r18 12 13 5.44423
r19 10 12 1.53
r20 6 8 0.288
r21 6 15 0.247
r22 5 8 5.44423
r23 5 6 5.44423
r24 3 5 0.765
.ends

.subckt PM_CLKGEN_NET24 3 10 27 31
c0 36 0 0.108456f
c1 34 0 0.155043f
c2 29 0 0.219407f
c3 27 0 0.169738f
c4 16 0 0.193395f
c5 13 0 0.737025f
c6 5 0 0.00784247f
r7 38 39 8
r8 34 38 0.0774468
r9 33 36 6.2234
r10 33 34 13.2552
r11 29 36 4.73303
r12 29 31 82.25
r13 25 36 4.73303
r14 25 27 62
r15 16 39 0.125348
r16 15 16 8
r17 13 15 0.292
r18 12 13 5.44423
r19 10 12 1.53
r20 6 8 0.288
r21 6 15 0.247
r22 5 8 5.44423
r23 5 6 5.44423
r24 3 5 0.765
.ends

.subckt PM_CLKGEN_NET23 3 10 27 31
c0 36 0 0.108456f
c1 34 0 0.154998f
c2 29 0 0.219407f
c3 27 0 0.169738f
c4 16 0 0.171669f
c5 13 0 0.735813f
c6 5 0 0.00784247f
r7 38 39 8
r8 34 38 0.0774468
r9 33 36 6.2234
r10 33 34 13.2552
r11 29 36 4.73303
r12 29 31 82.25
r13 25 36 4.73303
r14 25 27 62
r15 16 39 0.125348
r16 15 16 8
r17 13 15 0.292
r18 12 13 5.44423
r19 10 12 1.53
r20 6 8 0.288
r21 6 15 0.247
r22 5 8 5.44423
r23 5 6 5.44423
r24 3 5 0.765
.ends

.subckt PM_CLKGEN_NET26 3 10 27 31
c0 36 0 0.108456f
c1 34 0 0.154998f
c2 29 0 0.219407f
c3 27 0 0.169738f
c4 16 0 0.17167f
c5 13 0 0.735813f
c6 5 0 0.00784247f
r7 38 39 8
r8 34 38 0.0774468
r9 33 36 6.2234
r10 33 34 13.2552
r11 29 36 4.73303
r12 29 31 82.25
r13 25 36 4.73303
r14 25 27 62
r15 16 39 0.125348
r16 15 16 8
r17 13 15 0.292
r18 12 13 5.44423
r19 10 12 1.53
r20 6 8 0.288
r21 6 15 0.247
r22 5 8 5.44423
r23 5 6 5.44423
r24 3 5 0.765
.ends

.subckt PM_CLKGEN_NET023 3 10 27 31
c0 36 0 0.107377f
c1 34 0 0.15497f
c2 29 0 0.214367f
c3 27 0 0.161676f
c4 16 0 0.171637f
c5 13 0 0.73585f
c6 5 0 0.00784247f
r7 38 39 8
r8 34 38 0.0774468
r9 33 36 6.2234
r10 33 34 13.2552
r11 29 36 4.73303
r12 29 31 82.25
r13 25 36 4.73303
r14 25 27 62
r15 16 39 0.125348
r16 15 16 8
r17 13 15 0.292
r18 12 13 5.44423
r19 10 12 1.53
r20 6 8 0.288
r21 6 15 0.247
r22 5 8 5.44423
r23 5 6 5.44423
r24 3 5 0.765
.ends

.subckt PM_CLKGEN_CLKOUT 3 10 29 34 38
c0 47 0 0.174141f
c1 43 0 0.109412f
c2 38 0 0.141548f
c3 34 0 0.422916f
c4 30 0 1.18036f
c5 16 0 0.130289f
c6 13 0 0.578564f
r7 47 48 8
r8 44 47 0.0744681
r9 43 44 13.2552
r10 40 43 6.2234
r11 36 40 4.73303
r12 36 38 37
r13 32 40 4.73303
r14 32 34 148.5
r15 30 48 1.5925
r16 25 30 0.0363174
r17 25 29 0.05395
r18 16 29 0.16237
r19 15 16 8
r20 13 15 0.292
r21 12 13 5.44423
r22 10 12 1.53
r23 6 8 0.288
r24 6 15 0.247
r25 5 8 5.44423
r26 5 6 5.44423
r27 3 5 0.765
.ends

.subckt PM_CLKGEN_VSS 2 14 32 50 68 86 104 152 193
c0 196 0 0.116248f
c1 179 0 0.268217f
c2 177 0 0.144f
c3 175 0 0.218984f
c4 169 0 0.179954f
c5 163 0 0.179954f
c6 157 0 0.179954f
c7 149 0 0.179954f
c8 143 0 0.179954f
c9 107 0 0.223385f
c10 96 0 0.0182536f
c11 89 0 0.219653f
c12 78 0 0.0182536f
c13 71 0 0.219653f
c14 60 0 0.0182536f
c15 53 0 0.219653f
c16 42 0 0.0182536f
c17 35 0 0.220421f
c18 24 0 0.0182536f
c19 17 0 0.221536f
c20 6 0 0.0182536f
r21 196 199 0.192
r22 195 199 16.3327
r23 195 196 5.44423
r24 193 195 1.1475
r25 179 189 0.119957
r26 178 196 0.2032
r27 177 189 0.030812
r28 177 178 0.0561881
r29 150 152 0.000598291
r30 107 172 0.2142
r31 106 107 5.44423
r32 104 106 1.53
r33 102 175 0.030812
r34 101 102 16.3327
r35 96 172 0.0338099
r36 96 169 0.00997344
r37 96 175 0.00997344
r38 95 96 16.3327
r39 89 166 0.2142
r40 88 89 5.44423
r41 86 88 1.53
r42 84 169 0.0774786
r43 84 170 0.030812
r44 83 84 16.3327
r45 78 166 0.0338099
r46 78 163 0.00997344
r47 78 170 0.00997344
r48 77 78 16.3327
r49 71 160 0.2142
r50 70 71 5.44423
r51 68 70 1.53
r52 66 163 0.0774786
r53 66 164 0.030812
r54 65 66 16.3327
r55 60 160 0.0338099
r56 60 157 0.00997344
r57 60 164 0.00997344
r58 59 60 16.3327
r59 53 154 0.2142
r60 52 53 5.44423
r61 50 52 1.53
r62 48 157 0.0774786
r63 48 158 0.030812
r64 47 48 16.3327
r65 42 154 0.0338099
r66 42 149 0.00997344
r67 42 158 0.00997344
r68 41 42 16.3327
r69 35 146 0.2142
r70 34 35 5.44423
r71 32 34 1.53
r72 30 149 0.0774786
r73 30 152 0.0302137
r74 29 30 16.3327
r75 24 146 0.0338099
r76 24 143 0.00997344
r77 24 150 0.00997344
r78 23 24 16.3327
r79 17 140 0.2142
r80 16 17 5.44423
r81 14 16 1.53
r82 12 143 0.0774786
r83 12 144 0.030812
r84 11 12 16.3327
r85 6 140 0.0338099
r86 6 179 0.00997344
r87 6 144 0.00997344
r88 5 6 16.3327
r89 2 189 5.44423
r90 2 101 6.46875
r91 2 95 6.46875
r92 2 83 6.46875
r93 2 77 6.46875
r94 2 65 6.46875
r95 2 59 6.46875
r96 2 47 6.46875
r97 2 41 6.46875
r98 2 29 6.46875
r99 2 23 6.46875
r100 2 11 6.46875
r101 2 5 6.46875
.ends

.subckt PM_CLKGEN_VDD 2 3 19 35 51 67 83 164 169 187
c0 172 0 0.149018f
c1 167 0 0.148918f
c2 150 0 0.203025f
c3 144 0 0.203025f
c4 138 0 0.203025f
c5 132 0 0.203025f
c6 127 0 0.429695f
c7 126 0 0.203025f
c8 92 0 0.262261f
c9 86 0 0.426512f
c10 83 0 0.0101617f
c11 76 0 0.0182116f
c12 70 0 0.417258f
c13 67 0 0.0101617f
c14 60 0 0.0182116f
c15 54 0 0.417256f
c16 51 0 0.0101617f
c17 44 0 0.0182116f
c18 38 0 0.417256f
c19 35 0 0.0101617f
c20 28 0 0.0182116f
c21 22 0 0.42283f
c22 19 0 0.00912928f
c23 6 0 0.392886f
c24 3 0 0.0101617f
r25 184 187 0.0173504
r26 184 185 0.0457181
r27 180 181 0.0457181
r28 176 184 0.0412821
r29 176 180 0.0412821
r30 172 185 0.2008
r31 171 172 8.16635
r32 169 171 2.295
r33 167 181 0.2008
r34 166 167 8.16635
r35 164 166 2.295
r36 150 151 0.108291
r37 144 145 0.108291
r38 138 139 0.108291
r39 132 133 0.108291
r40 126 127 0.108291
r41 92 152 0.0338099
r42 92 150 0.00997344
r43 91 92 8.16635
r44 89 152 0.1908
r45 86 89 0.288
r46 85 89 5.44423
r47 85 86 5.44423
r48 83 85 0.765
r49 76 146 0.0338099
r50 76 144 0.00997344
r51 76 151 0.00997344
r52 75 76 8.16635
r53 73 146 0.1908
r54 70 73 0.288
r55 69 73 5.44423
r56 69 70 5.44423
r57 67 69 0.765
r58 60 140 0.0338099
r59 60 138 0.00997344
r60 60 145 0.00997344
r61 59 60 8.16635
r62 57 140 0.1908
r63 54 57 0.288
r64 53 57 5.44423
r65 53 54 5.44423
r66 51 53 0.765
r67 44 134 0.0338099
r68 44 132 0.00997344
r69 44 139 0.00997344
r70 43 44 8.16635
r71 41 134 0.1908
r72 38 41 0.288
r73 37 41 5.44423
r74 37 38 5.44423
r75 35 37 0.765
r76 28 128 0.0338099
r77 28 126 0.00997344
r78 28 133 0.00997344
r79 27 28 8.16635
r80 25 128 0.1908
r81 22 25 0.288
r82 21 25 5.44423
r83 21 22 5.44423
r84 19 21 0.765
r85 12 127 0.0104701
r86 12 187 0.0717949
r87 12 122 0.0457181
r88 11 12 8.16635
r89 9 122 0.1908
r90 6 9 0.288
r91 5 9 5.44423
r92 5 6 5.44423
r93 3 5 0.765
r94 2 176 5.44423
r95 2 91 6.60638
r96 2 75 6.60638
r97 2 59 6.60638
r98 2 43 6.60638
r99 2 27 6.60638
r100 2 11 6.60638
.ends

.subckt PM_CLKGEN_XI18.NET15 1 2
r0 1 2 2.295
.ends

