* File: /home/IC/lab6/INV/inv.pex.spi.pex
* Created: Sun Feb 23 20:10:10 2025
* Program "Calibre xRC"
* Version "v2019.3_15.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INV_A 5 9 20
c0 20 0 0.0711191f
c1 14 0 0.107098f
c2 12 0 0.160311f
c3 7 0 0.171789f
c4 5 0 0.153634f
r5 17 20 8
r6 12 17 0.0774468
r7 11 14 6.2234
r8 11 12 13.2552
r9 7 14 4.73303
r10 7 9 82.25
r11 3 14 4.73303
r12 3 5 62
.ends

.subckt PM_INV_OUT 3 10 19
c0 19 0 0.0664304f
c1 13 0 0.590179f
r2 16 19 8
r3 13 16 0.292
r4 12 13 5.44423
r5 10 12 1.53
r6 6 8 0.288
r7 6 16 0.247
r8 5 8 5.44423
r9 5 6 5.44423
r10 3 5 0.765
.ends

.subckt PM_INV_VSS 2 13 23
c0 18 0 0.115933f
c1 16 0 0.186778f
c2 11 0 0.164685f
r3 21 23 0.0101709
r4 16 18 0.2142
r5 15 16 5.44423
r6 13 15 1.53
r7 11 23 0.020641
r8 10 11 16.3327
r9 5 18 0.0368203
r10 5 21 0.0193679
r11 4 5 16.3327
r12 2 10 6.46875
r13 2 4 6.46875
.ends

.subckt PM_INV_VDD 4 5 6
c0 20 0 0.113943f
c1 9 0 0.321003f
c2 2 0 0.189696f
r3 15 20 0.0368203
r4 14 15 8.16635
r5 12 20 0.1908
r6 9 12 0.288
r7 8 12 5.44423
r8 8 9 5.44423
r9 6 8 0.765
r10 5 14 6.60638
r11 2 15 0.0193679
r12 2 4 0.0101709
.ends

