* File: /home/IC/lab6/NAND2/nand2.pex.spi.pex
* Created: Sun Feb 23 11:15:29 2025
* Program "Calibre xRC"
* Version "v2019.3_15.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND2_A 5 9 22
c0 19 0 0.0563425f
c1 15 0 0.107914f
c2 13 0 0.143765f
c3 9 0 0.140066f
c4 5 0 0.363611f
r5 19 22 0.02652
r6 18 19 8
r7 13 18 0.0744681
r8 12 15 6.2234
r9 12 13 13.2552
r10 7 15 4.73303
r11 7 9 38.5
r12 3 15 4.73303
r13 3 5 135
.ends

.subckt PM_NAND2_VOUT 12 13 17 27
c0 27 0 0.0401315f
c1 20 0 0.181418f
c2 16 0 0.430783f
c3 9 0 0.118171f
r4 20 22 0.192
r5 19 22 16.3327
r6 19 20 5.44423
r7 17 19 1.1475
r8 15 16 8.16635
r9 13 15 2.295
r10 12 15 2.295
r11 10 27 0.0221
r12 9 10 8
r13 7 22 0.1688
r14 6 9 0.00233333
r15 6 7 0.0126889
r16 4 16 0.3292
r17 3 6 0.107333
r18 3 4 0.0126889
.ends

.subckt PM_NAND2_B 5 9 22
c0 19 0 0.0575677f
c1 18 0 0.156354f
c2 14 0 0.108942f
c3 9 0 0.136255f
c4 5 0 0.380613f
r5 19 22 0.01807
r6 18 19 8
r7 15 18 0.0744681
r8 14 15 13.2552
r9 11 14 6.2234
r10 7 11 4.73303
r11 7 9 37
r12 3 11 4.73303
r13 3 5 136.5
.ends

.subckt PM_NAND2_VSS 4 11 22
c0 22 0 0.227124f
c1 14 0 0.119052f
c2 2 0 0.0840836f
r3 14 17 0.192
r4 13 17 16.3327
r5 13 14 5.44423
r6 11 13 1.1475
r7 4 22 5.44423
r8 3 14 0.2032
r9 2 22 0.030812
r10 2 3 0.0561881
.ends

.subckt PM_NAND2_VDD 2 3 8 23
c0 24 0 0.304893f
c1 11 0 0.153001f
c2 6 0 0.148918f
r3 24 25 0.0457181
r4 23 24 0.0463675
r5 19 23 0.0361966
r6 19 20 0.0457181
r7 11 25 0.2008
r8 10 11 8.16635
r9 8 10 2.295
r10 6 20 0.2008
r11 5 6 8.16635
r12 3 5 2.295
r13 2 23 5.44423
.ends

.subckt PM_NAND2_NET15 1 2
r0 1 2 2.295
.ends

